US05663200
49d) 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-[(2,4-dimethoxylphenyl)methyl]hexanoic acid
A solution of 1.5 g (3.17 mmol) of 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-[(2,4-dimethoxyphenyl)methyl]hexanoic acid, 1.76 g (25.36 mmol) of imidazole and 2.22 g (14.26 mmol) of tert-butyldimethylchlorosilane in 16 ml of abs. DMF is stirred at RT for 20 h under argon. After that, the reaction mixture is poured onto ice-water and the whole is extracted with ethyl acetate. The organic phase is washed with cold 10% citric acid solution and saline. The combined aqueous phases are reextracted with ethyl acetate. The combined organic phases are dried over Na2SO4, and the solvent is removed on a RE at about 30° C. An oil is obtained which is dissolved in 42.1 ml of methanol and 14.4 ml of THF, and this solution is then treated, at RT, with 2.5 g of potassium carbonate in 14.4 ml of water. After it has been stirred at RT for 2 h, the reaction mixture is concentrated down to half its volume at approximately 30° C. and the residue is diluted with ethyl acetate; the whole is then washed with 10% citric acid solution and with saline (both being cold). The combined aqueous phases are reextracted with ethyl acetate. The combined organic phases are dried over Na2SO4 and evaporated. Chromatography on silica gel (D) affords the pure title compound. TLC Rf (C)=0.34. FAB-MS (M+H)+ =588. HPLC tRet =20.24 min (gradient II). IR(KBr)=inter alia 1712, 1654, 1614, 1588 und 1507 cm-1. 1H-NMR(CD3OD)=inter alia 7.30-7.10/m (5H); 6.98/d (1H); 6.50/d (1H); 6.40//dxd (1H); 3.80 and 3.76/each s (each 3H); 1.31/s (9H); 0.93/s (9H); 0.14 and 0.11/each s (each 3H).

reactant | 5(S)-(Boc-amino)-4(S)-hydroxy-6-phenyl-2(R)-[(2,4-dimethoxyphenyl)methyl]hexanoic acid | 3.17 mmol, 1.5 g | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=C(C=C(C=C1)OC)OC)O)CC1=CC=CC=C1 | C26H35NO7
reactant | imidazole | 25.36 mmol, 1.76 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylchlorosilane | 14.26 mmol, 2.22 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 42.1 ml | CO | CH4O
solvent | THF | 14.4 ml | C1CCOC1 | C4H8O
solvent | water | 14.4 ml | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 5(S)-(Boc-Amino)-4(S)-(tert-butyldimethylsilyloxy)-6-phenyl-2(R)-[(2,4-dimethoxylphenyl)methyl]hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=C(C=C(C=C1)OC)OC)O[Si](C)(C)C(C)(C)C)CC1=CC=CC=C1 | C32H49NO7Si
